US04371604
(a) 3-methyl-6-myristoyl-hydroquinone
228 g (1 mole) of myristic acid and 136 g (1.1 mole) of monomethylhydroquinone were melted together whilst stirring a 100° C. and saturated with boron trifluoride for 4 h. After being stirred for 2 h at 100° C. the mixture was poured into 3 l of water. The product formed was pulverized under water and neutralized with a solution of 110 g of sodium carbonate in 400 ml of water, suction-filtered, washed with water, dried, and recrystallized from benzine. Yield: 305 g of compound Y1a. Melting point: 83° C.

reactant | myristic acid | 1 mole, 228 g | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | monomethylhydroquinone | 1.1 mole, 136 g | CC1=C(O)C=CC(=C1)O | C7H8O2
reactant | boron trifluoride | B(F)(F)F | BF3
reactant | sodium carbonate | 110 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 400 ml | O | H2O
solvent | water | 3 l | O | H2O
product | 3-methyl-6-myristoyl-hydroquinone | CC=1C=C(O)C(=CC1O)C(CCCCCCCCCCCCC)=O | C21H34O3
